US06486182B1
4-(2-Chloro-phenyl)-2-(2-[(5-{7-[2-(4-fluoro-phenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoyloxymethyl}-2-oxo-[1,3]dioxol-4-ylmethyl)-amino]-ethoxymethyl}-6-methyl-1,4-dihydro-pyridine-3,5-dicarboxylic acid 3-ethylester 5-methyl ester
A solution of 4,5-bis(bromomethyl)-1,3-dioxol-2-one (10 g, 36.8 mmol) in ethyl acetate (10 ml) is added dropwise to a mixture of atorvastatin (7.45 g, 12.9 mmol), potassium bicarbonate (3 g) and sodium iodide (0.05 g) in ethyl acetate (60 ml) and N,N-dimethylformamide (20 ml) at 5° C. and the mixture is stirred at room temperature for 8 h. Cold water (30 ml) is added with stirring and the organic phase is separated, washed with 5% aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent is removed under reduced pressure and the residue is purified by column chromatography on silica gel to yield the 5-bromomethyl-2-oxo-1,3-dioxol-4-yl)methyl ester of atorvastatin. A mixture of the 5-bromomethyl-2-oxo-1,3-dioxol-4-yl)methyl ester of atorvastatin (7.7 g, 10 mmol), amlodipine (5.25 g, 10 mmol) and potassium bicarbonate (1 g, 10 mmol) in N,N-dimethylformamide (50 ml) is stirred at 0° C. for 8 h. The solvent is removed in vacuo and the residue is dissolved in chloroform. The chloroform solution is washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield the title compound of Example One.

reactant | atorvastatin | 10 mmol, 7.7 g | CC(C)C1=C(C(=C(N1CC[C@H](C[C@H](CC(=O)O)O)O)C=2C=CC(=CC2)F)C=3C=CC=CC3)C(=O)NC=4C=CC=CC4 | C33H35FN2O5
reactant | amlodipine | 10 mmol, 5.25 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
reactant | potassium bicarbonate | 10 mmol, 1 g | C([O-])(O)=O.[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(2-Chloro-phenyl)-2-(2-[(5-{7-[2-(4-fluoro-phenyl)-5-isopropyl-3-phenyl-4-phenylcarbamoyl-pyrrol-1-yl]-3,5-dihydroxy-heptanoyloxymethyl}-2-oxo-[1,3]dioxol-4-ylmethyl)-amino]-ethoxymethyl}-6-methyl-1,4-dihydro-pyridine-3,5-dicarboxylic acid 3-ethylester 5-methyl ester | COC(=O)C=1C(C(=C(NC1C)COCCNCC=1OC(OC1COC(CC(CC(CCN1C(=C(C(=C1C(C)C)C(NC1=CC=CC=C1)=O)C1=CC=CC=C1)C1=CC=C(C=C1)F)O)O)=O)=O)C(=O)OCC)C1=C(C=CC=C1)Cl | C58H62ClFN4O13
